US04837337
Immediately after the supply of acetaldehyde was over, the reaction mixture was analyzed by a liquid chromatography. The reaction ratio of 2-pyrrolidone was 87.1 mol % and the selectivity in forming N-(α-hydroxyethyl)pyrrolidone based on 2-pyrrolidone was 43.7 mol %.

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | 2-pyrrolidone | N1C(CCC1)=O | C4H7NO
product | N-(α-hydroxyethyl)pyrrolidone | OC(C)N1C(CCC1)=O | C6H11NO2
